US05635510
61.4 Synthesis of 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidine
Prepare according to the method of example 1.3.2 using 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidin-2-one (3 mmol), LiA1H4 (18 mmol) H2SO4 (99.999%) (9 mmol). Purify to give the title compound.

reactant | 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidin-2-one | 3 mmol | ClC=1C=C(C=CC1Cl)C1(CC(NC1)=O)CCCOC1OCCCC1 | C18H23Cl2NO3
reactant | H2SO4 | 18 mmol | OS(=O)(=O)O | H2O4S
product | 4-(3,4-dichloro-phenyl)-4-[3-(tetrahydro-pyran-2-yloxy)-propyl]-pyrrolidine | ClC=1C=C(C=CC1Cl)C1(CCNC1)CCCOC1OCCCC1 | C18H25Cl2NO2
